US07868188B2
N-[4-Methyl-5-(6-methylsulfonylaminopyridin-2-yl)-1,3-thiazol-2-yl]acetamide
A mixture of N-[5-(6-aminopyridin-2-yl)-4-methyl-1,3-thiazol-2-yl]acetamide (249 mg), methanesulfonic anhydride (1.74 g) and pyridine (10 mL) was heated to 80° C. for 2 minutes. The mixture was cooled and poured into isohexane (400 n-L). The supernatant liquid was decanted from the oily residue. A 7M methanolic ammonia solution (20 mL) was added to the residue and the mixture was stirred at room temperature for 1 hour. The resultant mixture was evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of dichloromethane and methanol as eluent. There was thus obtained the title compound (133 mg); 1H NMR Spectrum: (DMSO-d6) 2.15 (s, 3H), 2.55 (s, 3H), 3.42 (s, 3H), 6.78 (d, 1H), 7.27 (d, 1H), 7.76 (t, 1H), 10.67 (br s, 1H), 12.14 (s, 1H); Mass Spectrum: M+H+ 327.

reactant | N-[5-(6-aminopyridin-2-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | 249 mg | NC1=CC=CC(=N1)C1=C(N=C(S1)NC(C)=O)C | C11H12N4OS
reactant | methanesulfonic anhydride | 1.74 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | isohexane | CCCC(C)C | C6H14
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-Methyl-5-(6-methylsulfonylaminopyridin-2-yl)-1,3-thiazol-2-yl]acetamide | 133 mg | CC=1N=C(SC1C1=NC(=CC=C1)NS(=O)(=O)C)NC(C)=O | C12H14N4O3S2
